US08686022B2
7-hydroxymethyl-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
Under argon 14.7 g of methyl 2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indole-7-carboxylate are dissolved in 120 ml of tetrahydrofuran, cooled to 0° C. and combined dropwise with 60 ml of a 1 M solution of lithium aluminium hydride in tetrahydrofuran. The mixture is stirred for 2 hours and then the reaction is stopped by the dropwise addition of 30 ml of 2 N sodium hydroxide solution. Then the mixture is stirred for 30 minutes, diluted with ethyl acetate and filtered through kieselguhr. The filter cake is taken up in 60 ml of tetrahydrofuran, stirred for 10 minutes and suction filtered through kieselguhr again. The combined organic phases are dried on magnesium sulphate and evaporated down in vacuo. The residue is extracted from methanol. The precipitated solid is filtered off and dried.

reactant | methyl 2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indole-7-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)C(=O)OC)C)OC)NS(=O)(=O)C | C24H29N3O6S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2 N, 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-hydroxymethyl-1-methyl-1H-indole-2-carboxylic acid-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CO)C)OC)NS(=O)(=O)C | C23H29N3O5S
